US07906660B2
Platinum(IV)oxide (Adam's catalyst) (0.05 g) was added to a solution of 4′,7-diacetoxyisoflavanone (0.25 g, 0.7 mmol) in ethyl acetate (40 ml) and the mixture was stirred at room temperature under a hydrogen atmosphere for 55 h. The catalyst was removed by filtration through Celite and the filtrate was evaporated in vacuo to yield predominantly the cis-4′,7-diacetoxyisoflavan-4-ol.

reactant | 4′,7-diacetoxyisoflavanone | 0.7 mmol, 0.25 g | C(C)(=O)OC1=CC=C(C2COC3=CC(=CC=C3C2=O)OC(C)=O)C=C1 | C19H16O6
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum(IV)oxide | 0.05 g | [Pt](=O)=O
product | cis-4′,7-diacetoxyisoflavan-4-ol | C(C)(=O)OC1=CC=C([C@@H]2COC3=CC(=CC=C3[C@@H]2O)OC(C)=O)C=C1 | C19H18O6
